### PR TITLE
[Merged by Bors] - feat(Data/Matrix/Cartan): determinants and simply-laced properties

### PR DESCRIPTION
**Pull request by JohnnyTeutonic**
This PR adds:
- Determinants for G₂ and F₄ Cartan matrices
- `IsSimplyLaced` predicate
- Simply-laced theorems for A, D, E families

Note: E₆/E₇/E₈ determinants are deferred due to `decide` recursion limits.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Cartan.lean [hunk 1]
```diff
@@ -243,6 +244,38 @@ theorem G₂_off_diag_nonpos (i j : Fin 2) (h : i ≠ j) : G₂ i j ≤ 0 := by
 
 @[simp] theorem E₈_transpose : E₈.transpose = E₈ := by decide
 
+/-! ### Exceptional matrix determinants -/
+
+theorem G₂_det : G₂.det = 1 := by decide
+
+set_option maxRecDepth 600 in
+theorem F₄_det : F₄.det = 1 := by decide
```
Comment (ocfnash) [inline Mathlib/Data/Matrix/Cartan.lean:251]: It looks to me like there is no need to tinker with `maxRecDepth` or to exclude the higher rank cases:
```suggestion
theorem G₂_det : G₂.det = 1 := by decide

theorem F₄_det : F₄.det = 1 := by decide

theorem E₆_det : F₄.det = 1 := by decide

theorem E₇_det : F₄.det = 1 := by decide

theorem E₈_det : F₄.det = 1 := by decide
```
I'd also add that proving these `by decide` is a bit of a last resort and if we had needed to bump `maxRecDepth`, then I would not be in favour.

I'm slightly surprised that the above performs well (what we should really have is an efficient tactic to compute concrete determinants) but it does seem OK.

File: Mathlib/Data/Matrix/Cartan.lean [hunk 2]
```diff
@@ -243,6 +244,38 @@ theorem G₂_off_diag_nonpos (i j : Fin 2) (h : i ≠ j) : G₂ i j ≤ 0 := by
...
+
+theorem E₆_isSimplyLaced : IsSimplyLaced E₆ := E₆_transpose
+
+theorem E₇_isSimplyLaced : IsSimplyLaced E₇ := E₇_transpose
+
+theorem E₈_isSimplyLaced : IsSimplyLaced E₈ := E₈_transpose
+
+theorem A_isSimplyLaced (n : ℕ) : IsSimplyLaced (A n) := A_transpose n
+
+theorem D_isSimplyLaced (n : ℕ) : IsSimplyLaced (D n) := D_transpose n
```
Comment (ocfnash) [inline Mathlib/Data/Matrix/Cartan.lean]: I've never seen being symmetric as a definition of begin simply laced before. Where does this come from?

I would have expected something like:
```suggestion
/-- A Cartan matrix is simply laced if its off-diagonal entries are all `0` or `-1`. -/
def _root_.Matrix.IsSimplyLaced {ι : Type*} (A : Matrix ι ι ℤ) : Prop :=
  Pairwise fun i j ↦ A i j = 0 ∨ A i j = -1

@[simp] theorem _root_.Matrix.isSimplyLaced_transpose {ι : Type*} (A : Matrix ι ι ℤ) :
    A.transpose.IsSimplyLaced ↔ A.IsSimplyLaced := by
  rw [IsSimplyLaced, IsSimplyLaced, Pairwise, Pairwise, forall_comm]
  aesop

theorem isSimplyLaced_A (n : ℕ) : IsSimplyLaced (A n) := by
  intro i j h
  simp only [A, of_apply]
  grind

theorem isSimplyLaced_D (n : ℕ) : IsSimplyLaced (D n) := by
  intro i j h
  simp only [D, of_apply]
  grind

theorem isSimplyLaced_E₆ : IsSimplyLaced E₆ :=
  fun i j h ↦ by fin_cases i <;> fin_cases j <;> simp [E₆] at h ⊢

theorem isSimplyLaced_E₇ : IsSimplyLaced E₇ :=
  fun i j h ↦ by fin_cases i <;> fin_cases j <;> simp [E₇] at h ⊢

theorem isSimplyLaced_E₈ : IsSimplyLaced E₈ :=
  fun i j h ↦ by fin_cases i <;> fin_cases j <;> simp [E₈] at h ⊢
```

Comment (ocfnash) [reply Mathlib/Data/Matrix/Cartan.lean]: In subsequent work (e.g., a follow-up PR) we could also prove:
```lean
theorem not_isSimplyLaced_B (n : ℕ) [n.AtLeastTwo] : ¬ IsSimplyLaced (B n) := by
  sorry

theorem not_isSimplyLaced_C (n : ℕ) [n.AtLeastTwo] : ¬ IsSimplyLaced (C n) := by
  sorry
```

File: Mathlib/Data/Matrix/Cartan.lean [hunk 3]
```diff
@@ -243,6 +244,38 @@ theorem G₂_off_diag_nonpos (i j : Fin 2) (h : i ≠ j) : G₂ i j ≤ 0 := by
...
+
+/-! ### Determinant positivity -/
+
+theorem G₂_det_pos : 0 < G₂.det := by decide
+
+theorem F₄_det_pos : 0 < F₄.det := by decide
```
Comment (ocfnash) [inline Mathlib/Data/Matrix/Cartan.lean]: These are too trivial given we provide the value of the determinants above.
```suggestion
```

File: Mathlib/Data/Matrix/Cartan.lean (hunk 2 above)
Comment (JohnnyTeutonic) [reply Mathlib/Data/Matrix/Cartan.lean]: Yep, good point. I used symmetry as a convenient characterisation in the Cartan-matrix setting (my understanding is that under the usual Cartan constraints, “simply-laced” is equivalent to all off-diagonal entries being 0 or -1, and in the simply-laced types this corresponds to symmetry). But I agree your formulation is the more standard definition, so I’ll switch to it and keep symmetry as a lemma/characterization where appropriate. Sounds good re: subsequent PRs.

File: Mathlib/Data/Matrix/Cartan.lean [hunk 4]
```diff
@@ -243,6 +244,46 @@ theorem G₂_off_diag_nonpos (i j : Fin 2) (h : i ≠ j) : G₂ i j ≤ 0 := by
...
+
+theorem G₂_det : G₂.det = 1 := by decide
+
+theorem F₄_det : F₄.det = 1 := by decide
+
+theorem E₆_det : F₄.det = 1 := by decide
+
+theorem E₇_det : F₄.det = 1 := by decide
+
+theorem E₈_det : F₄.det = 1 := by decide
```
Comment (ocfnash) [inline Mathlib/Data/Matrix/Cartan.lean]: Oops, I now see I made a typo in my suggestion: these lemmas all just repeat the statement about `F₄`. Checking now I see that my initial surprise was justified: `decide` does fail (without max recursion depth bump) for the larger ones. We _could_ write very disgusting manual proofs (e.g., starting with `rw [det_succ_column_zero, Fin.sum_univ_six]`) but I would not support such an approach. Much better would be for now to write:
```suggestion
proof_wanted E₆_det : E₆.det = 3

proof_wanted E₇_det : E₇.det = 2

proof_wanted E₈_det : E₈.det = 1
```
and to raise this on Zulip in the hopes of tempting someone to write an efficient tactic for determinants.

Comment (JohnnyTeutonic) [reply Mathlib/Data/Matrix/Cartan.lean]: Will do! It's only appropriate that the exceptional algebras require exceptional tactics. I'll post on Zulip, maybe framing it as "E₈ broke decide, who wants to fix it?" will attract some attention!?

Comment (ocfnash) [reply Mathlib/Data/Matrix/Cartan.lean]: I strongly suggest avoiding a clickbaity headline for the thread. It is much more useful (especially for posterity) to use the title to convey useful information. I think just "Tactic for determinants" or similar would be good.

**Comment by ocfnash** [comment]
Quite a lot of this is now code suggested by me so I'm going to ask another maintainer to make the final call.

maintainer merge

File: Mathlib/Data/Matrix/Cartan.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/Data/Matrix/Cartan.lean]: Could you add a comment before these `proof_wanted` explaining this discussion (`decide` fails, we could go for an ugly proof if needed but we prefer to wait for a more principled one)?

Comment (JohnnyTeutonic) [reply Mathlib/Data/Matrix/Cartan.lean]: Yep, I've added a comment and @ocfnash , I'll avoid the clickbait on Zulip, no worries!

Comment (JohnnyTeutonic) [reply Mathlib/Data/Matrix/Cartan.lean]: Posted on Zulip: [Tactic for determinants](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tactic.20for.20determinants)
